US05368971
zinc 3,5-di-t-butyl-2-ethoxybenzoate (compound No. 3)
Five parts of 3,5-di-t-butyl-2-ethoxybenzoic acid was dissolved in 80 parts of methyl alcohol, followed by the addition of an aqueous solution of 1.1 parts of 96% potassium hydroxide in 10 parts of water. The resulting mixture was heated to 60° C. An aqueous solution of 2.6 parts of zinc sulfate heptahydrate in 10 parts of water was dropped into the resulting mixture over a period of 15 minutes. After the completion of the dropping, the obtained mixture was stirred at that temperature for 2 hours, cooled to a room temperature and filtered to recover a white crystalline precipitate. This precipitate was dispersed in 60 parts of water, washed therewith and filtered. The filter cake was dried to give 3.9 parts of a white crystal. The melting point thereof was 178° to 180° C.

reactant | 3,5-di-t-butyl-2-ethoxybenzoic acid | C(C)(C)(C)C=1C(=C(C(=O)O)C=C(C1)C(C)(C)C)OCC | C17H26O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | zinc sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | methyl alcohol | CO | CH4O
product | zinc 3,5-di-t-butyl-2-ethoxybenzoate | C(C)(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)(C)C)OCC.[Zn+2].C(C)(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)(C)C)OCC | InChI=1S/2C17H26O3.Zn/c2*1-8-20-14-12(15(18)19)9-11(16(2,3)4)10-13(14)17(5,6)7;/h2*9-10H,8H2,1-7H3,(H,18,19);/q;;+2/p-2
